Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea/vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female past medical history significant for reflux
presenting to the emergency department with epigastric pain
nausea and vomiting since this morning. History obtained with
help of son who was at bedside. Patient takes omeprazole and
normally heartburn goes away, however her omeprazole did not 
work
today. She also described a "dullness" which has since resolved.
Patient has not eaten much and has vomited 3 times. Last time 
she
vomited was approximately 7 ___ when she arrived to ED. She
reports having a bitemporal headache with these symptoms as 
well.
She reports no other symptoms of SOB, cough, dysuria, abdominal
pain, weakness, numbess, tingling, lightheadedness. Has some
chronic mild LBP. She has never had issues with her sodium
before, and she has otherwise been feeling well, with good PO
intake. 

In the ED, initial VS were:
97.4 76 141/76 18 98% RA 

Exam:
GA: Comfortable
Neuro: Cranial nerves II -XII intact, 5 out of 5 strength
bilaterally upper and lower extremities, full sensation
bilaterally
HEENT: No scleral icterus, dry mucous membranes
Cardiovascular: Normal S1, S2, regular rate and rhythm, no
murmurs/rubs/gallops, 2+ peripheral pulses bilaterally
Pulmonary: Clear to auscultation bilaterally
Abdominal: Soft, nontender, nondistended, no masses
Extremities: No lower leg edema
Integumentary: No rashes noted

ECG: NSR, no TWI or ST changes
Labs showed: WBC 9.4. Lactate 1.2. Na 121->122 (after 1.5L), UA
71 WBC, sm leuk, neg nitrites. 

Consults:

Renal: Will see in AM. Please send urine lytes and osms, serum
osms. Please recheck sodium in 2 hours, ensure not increasing by
more than 6 at that point. 

Patient received: Ceftriaxone

Transfer vitals stable

On arrival to the floor, confirmed history as above with son.
Patient continues to endorse heartburn but no more chest
dullness. No longer nauseous. No headache. 

 
Past Medical History:
GERD
HLD
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISISON EXAM:
=================
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE EXAM:
================
VS:98.0 PO  134/74 L Lying  59  18  95%  GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
GU: no suprapubic tenderness
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:57PM BLOOD WBC-9.4 RBC-4.14 Hgb-12.3 Hct-34.6 MCV-84 
MCH-29.7 MCHC-35.5 RDW-12.3 RDWSD-37.0 Plt ___
___ 10:57PM BLOOD Neuts-83.8* Lymphs-11.4* Monos-3.9* 
Eos-0.4* Baso-0.1 Im ___ AbsNeut-7.84* AbsLymp-1.07* 
AbsMono-0.37 AbsEos-0.04 AbsBaso-0.01
___ 10:57PM BLOOD Glucose-141* UreaN-12 Creat-0.7 Na-121* 
K-4.7 Cl-86* HCO3-20* AnGap-15
___ 06:06AM BLOOD Calcium-8.1* Phos-3.0 Mg-1.8
___ 10:57PM BLOOD Osmolal-248*
___ 06:06AM BLOOD TSH-1.5
___ 10:57PM BLOOD Lactate-1.2

DISCHARGE LABS:
===============
___ 06:09AM BLOOD Cortsol-9.5
___ 06:09AM BLOOD WBC-6.1 RBC-4.07 Hgb-12.0 Hct-35.2 MCV-87 
MCH-29.5 MCHC-34.1 RDW-12.8 RDWSD-39.6 Plt ___
___ 06:09AM BLOOD Glucose-89 UreaN-12 Creat-0.8 Na-135 
K-4.4 Cl-99 HCO3-22 AnGap-14
___ 02:11PM BLOOD Na-135
___ 06:09AM BLOOD Calcium-9.0 Phos-2.8 Mg-2.1

IMAGING:
CXR ___ evidence of acute pulmonary disease.  No 
suspicious Findings.  If needed clinically, chest CT is much 
more sensitive for diagnosing any possible pulmonary malignancy 
than radiography. 

 
Brief Hospital Course:
___ yo F with h/o GERD presenting with worsening heartburn and 
vomiting, found to be hyponatremic to 121 likely due to 
hypovolemia with improvement of sodium to 135 prior to 
discharge.

ACUTE ISSUES:
===============
#Hyponatremia
Patient presented mildly symptomatic with Na 121. Initially 
thought to be SIADH, however Na quickly improved with IV fluid 
resuscitation. Initial urine studies consistent with SIADH 
however, repeat urine lytes with dilute urine which is more 
consistent with hypovolemia picture after fluid resuscitation. 
Patient with hypovolemia secondary to GI upset/nausea/vomiting. 
Discharge Na 135, plan to recheck Na in ___ days with primary 
care physician. 

#Sterile pyuria
Pt with nausea/vomiting on admission, with UA showing sterile 
pyuria. Deferred antibiotic therapy given urine culture with 
mixed flora c/w contamination. 

#Chest pain
#Acid reflux
Resolved after 1L fluid bolus and correction of hyponatremia. 
Most likely due to GERD. Pt with EKG with no evidence of 
ischemia, with 2x troponins negative. CXR unremarkable. Continue 
home omeprazole 20mg PO daily. Can consider outpatient workup 
for severe GERD, although symptoms improved prior to discharge. 

CHRONIC ISSUES:
===============
#HLD
- Continue atorvastatin 5mg daily

#Supplements
- Continue vitamin D 1000u daily

#CODE: Full (discussed with son)
#CONTACT: ___ (son) ___. Daughter ___

TRANSITIONAL ISSUES:
====================
- Please check chemistry panel in ___ days to ensure sodium is 
stable. Discharge Na 135.
- Please consider outpatient work up for severe GERD and 
consider GI referral if symptoms persist. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Omeprazole 20 mg PO DAILY 
2. Vitamin D Dose is Unknown  PO DAILY 
3. Atorvastatin 5 mg PO QPM 

 
Discharge Medications:
1.  Vitamin D 1000 UNIT PO DAILY home med  
2.  Atorvastatin 5 mg PO QPM  
3.  Omeprazole 20 mg PO DAILY  
4.Outpatient Lab Work
E87.1
Please check chemistry panel (during week of ___
Fax results to ___ attn: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hyponatremia
Hypovolemia
Sterile pyuria
Chest pain
Hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___!

Why you were here?
You came to the hospital because you had nausea and abdominal 
pain. You were found to have low sodium levels in your blood. 

What we did while you were here?
We gave you IV fluids and carefully monitored your sodium 
levels. With the fluid your sodium levels improved. Your 
abdominal pain and nausea also improved.

What you should do when you go home?
Please take all of your home medications. Please call your 
doctor if your develop abdominal pain, worsening nausea, 
dizziness, lightheadedness or headache.

Your ___ Team
 
Followup Instructions:
___